US04477671
In a two liter 3-neck, round bottom flask, fitted with a mechanical stirrer, a thermometer and a reflux condenser, a heterogeneous mixture of 2-phenyl-4H-1,3-dioxino[5,4-b]pyridine-6-carbaldehyde (24.1 g., 0.1 mole) sodium hydroxide (24.0 g., 0.6 mole) and methyltriphenylphosphonium bromide (71.5 g., 0.2 mole) in toluene (200 ml.) and water (600 ml.) was stirred at room temperature for 24 hours. The toluene layer was separated and the aqueous layer was washed with toluene (100 ml.). The combined toluene layers were dried over anhydrous magnesium sulfate. The toluene solution was then passed through a 10 mm. pad of silica gel which was then washed with 1 liter of ether/hexane solution (v/v 3:2). Evaporation of the solvents on a rotary evaporation in vacuo gave the crystalline 2-phenyl-6-vinyl-4H-1,3-dioxino [5,4-b]pyridine, 14.3 g. (59%); m.p. 54°-57° C.; mass spec (70 eV) m/e 211 (M+), 134, 133, 132, 106, 105, 104.

reactant | 2-phenyl-4H-1,3-dioxino[5,4-b]pyridine-6-carbaldehyde | 0.1 mole, 24.1 g | C1(=CC=CC=C1)C1OCC2=NC(=CC=C2O1)C=O | C14H11NO3
reactant | sodium hydroxide | 0.6 mole, 24.0 g | [OH-].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | methyltriphenylphosphonium bromide | 0.2 mole, 71.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 600 ml | O | H2O
product | 2-phenyl-6-vinyl-4H-1,3-dioxino [5,4-b]pyridine | C1(=CC=CC=C1)C1OCC2=NC(=CC=C2O1)C=C | C15H13NO2
